US09226922B2
A mixture of (R)-1-(4-methyl-3-oxo-1-trityl-2,3-dihydro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (50 mg, 0.090 mmol), Cs2CO3 (91 mg, 0.279 mmol), and 4-iodotetrahydro-2H-pyran (25 μL, 0.209 mmol) in DMF (1 mL) was stirred at room temperature for 18 h. The reaction was quenched with MeOH and concentrated in vacuo. The residue was dissolved in TFA (2 mL), charged with triethylsilane (0.02 mL, 0.125 mmol), and stirred at room temperature for 2 h. The reaction mixture was diluted with DMSO (4 mL) and purified by mass-triggered reverse-phase HPLC. Fractions containing pure compound were filtered through a PS—HCO3 cartridge and the filtrate was concentrated in vacuo to give (R)-1-(4-methyl-3-((tetrahydro-2H-pyran-4-yl)oxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. For C21H25N5O3 [M+1]+ 396. found 396. 1H NMR (500 MHz, DMSO-d6) δ 8.96 (s, 1H), 8.12 (br s, 1H), 7.33 (m, 4H), 7.22 (m, 1H), 7.16 (br s, 1H), 4.95 (m, 1H), 4.84 (quintuplet, J=7.1 Hz, 1H), 3.84 (m, 2H), 3.52 (m, 2H), 2.59 (s, 3H), 2.06 (m, 1H), 1.71 (m, 1H), 1.39 (d, J=7.1 Hz, 3H).

reactant | (R)-1-(4-methyl-3-oxo-1-trityl-2,3-dihydro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.090 mmol, 50 mg | CC1=NC(=CC2=C1C(NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)NC(=O)N[C@H](C)C2=CC=CC=C2 | C35H31N5O2
reactant | Cs2CO3 | 0.279 mmol, 91 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-iodotetrahydro-2H-pyran | 0.209 mmol, 25 μL | IC1CCOCC1 | C5H9IO
reactant | triethylsilane | 0.125 mmol, 0.02 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | (R)-1-(4-methyl-3-((tetrahydro-2H-pyran-4-yl)oxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | CC1=NC(=CC2=C1C(=NN2)OC2CCOCC2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C21H25N5O3
